US07531532B2
3-[4-(4-Amino-3-fluorophenoxy)pyridin-2-yl]-1-methyl-1-(1-methylpiperidin-4-yl)urea
To a solution of benzyl (2-fluoro-4-{2-[3-methyl-3-(1-methylpiperidin-4-yl)ureido]pyridin-4-yloxy}phenyl)carbamate (110 mg) in tetrahydrofuran (10 ml) was 10% palladium carbon (46.2 mg), followed by stirring under a hydrogen atmosphere at room temperature for 18 hrs. The reaction mixture was filtered to remove the catalyst, which was then washed with tetrahydrofuran. The filtrate was dried over anhydrous sodium sulfate, and concentrated to a volume of 40 ml to give a solution of the target compound in tetrahydrofuran (40 ml) as a pale yellow solution. Assuming that the reaction preceded quantitatively, the solution was used for a next reaction.

reactant | benzyl (2-fluoro-4-{2-[3-methyl-3-(1-methylpiperidin-4-yl)ureido]pyridin-4-yloxy}phenyl)carbamate | 110 mg | FC1=C(C=CC(=C1)OC1=CC(=NC=C1)NC(=O)N(C1CCN(CC1)C)C)NC(OCC1=CC=CC=C1)=O | C27H30FN5O4
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
catalyst | palladium carbon | 46.2 mg | [C].[Pd]
product | 3-[4-(4-Amino-3-fluorophenoxy)pyridin-2-yl]-1-methyl-1-(1-methylpiperidin-4-yl)urea | NC1=C(C=C(OC2=CC(=NC=C2)NC(N(C2CCN(CC2)C)C)=O)C=C1)F | C19H24FN5O2
